US04479002
Anhydrous hydrogen fluoride (8 g, 0.4 mole) was added to 400 ml of methylene chloride at 0° C. in a polyethylene reactor. Methylisocyanate (22.8 g, 0.4 mole) was added at -5° C. to 0° C. in 0.5 hr. After stirring for 1 hr at 0° C., a solution of 125.6 g of n-dodecyl N-chlorothio-N-methylcarbamate in 100 ml of methylene chloride was added, followed by a dropwise addition of 40.5 g (0.4 mole) of triethylamine. The mixture was stirred at 0° C. for one hour and was allowed to warm to ambient temperature. Water (300 ml) was added with vigorous stirring. The organic layer was washed with a saturated aqueous solution of sodium bicarbonate, then with water until the washings became neutral, dried over anhydrous magnesium sulfate, filtered and concentrated to give 129 g (92%) of oily N-(N'-n-Dodecyloxycarbonyl-N'-Methylaminosulfenyl)-N-methylcarbamoyl fluoride.

reactant | hydrogen fluoride | 0.4 mole, 8 g | F | FH
reactant | Methylisocyanate | 0.4 mole, 22.8 g | CN=C=O | C2H3NO
reactant | n-dodecyl N-chlorothio-N-methylcarbamate | 125.6 g | ClSN(C(OCCCCCCCCCCCC)=O)C | C14H28ClNO2S
reactant | triethylamine | 0.4 mole, 40.5 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
solvent | Water | 300 ml | O | H2O
product | N-(N'-n-Dodecyloxycarbonyl-N'-Methylaminosulfenyl)-N-methylcarbamoyl fluoride | 129 g, 92% | C(CCCCCCCCCCC)OC(=O)N(SN(C(=O)F)C)C | C16H31FN2O3S
